US06903120B2
4-(3-methanesulfonyl-phenyl)-piperidine hydrochloride (20 mg), glacial acetic acid (4.4 mg) and 2-butanone (5.1 mg) were mixed in 1,2-dichloroethane (5 mL). Sodium triacetoxyborohydride (23.5 mg) was added to the solution and the reaction mixture was stirred at room temperature under a nitrogen atmosphere for 5 h (G.L.C. analysis indicated a complete reaction). The reaction was quenched with saturated aqueous NaHCO3 and the product was extracted with CH2Cl2. The combined organic phases were dried (MgSO4), filtered, and the solvent was evaporated to afford 1-sec-butyl-4-(3-methanesulfonyl-phenyl)-piperidine as an oily residue. The product was chromatographed on a silica column with CH2Cl2:MeOH (9:1 (v/v)) as eluent. Collection of the fractions containing pure product and evaporation of the solvent afforded pure amine (15 mg, 71%); MS m/z (relative intensity, 70 eV) 295 (M+, 1), 280 (7), 266 (bp), 187 (4), 129 (4).

reactant | 4-(3-methanesulfonyl-phenyl)-piperidine hydrochloride | 20 mg | Cl.CS(=O)(=O)C=1C=C(C=CC1)C1CCNCC1
reactant | acetic acid | 4.4 mg | C(C)(=O)O | C2H4O2
reactant | 2-butanone | 5.1 mg | CC(CC)=O | C4H8O
reactant | Sodium triacetoxyborohydride | 23.5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 1-sec-butyl-4-(3-methanesulfonyl-phenyl)-piperidine | C(C)(CC)N1CCC(CC1)C1=CC(=CC=C1)S(=O)(=O)C | C16H25NO2S
